US04829086
The potassium salt of 4-hydroxyphenylacetic acid (9.5 g, 0.05 mL) was suspended in dimethylformamide (25 mL). Chloromethyl pivalate (7.53 g, 0.05 mol) was added and the reaction mixture was stirred at room temperature for 24 hours. The reaction mixture was poured into ice water and extracted with ethyl acetate (100 mL). The ethyl acetate layer was washed, first with aqueous 5% NaHCO3 (100 mL) and then twice with water, then was dried over anhydrous MgSO4, filtered and evaporated to yield pivalyloxymethyl 4-hydroxyphenylacetate, melting at 159°-161° C. (yield 70.2%).

reactant | potassium | [K] | K
reactant | 4-hydroxyphenylacetic acid | 0.05 mL, 9.5 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | Chloromethyl pivalate | 0.05 mol, 7.53 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | pivalyloxymethyl 4-hydroxyphenylacetate | yield 70.2% | OC1=CC=C(C=C1)CC(=O)OCOC(C(C)(C)C)=O | C14H18O5
